US08030500B2
(5-(3-Amino-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-1-yl)-2-methoxy-3-methylphenyl)methanol
(5-(3-Amino-1-(3-bromophenyl)-4-fluoro-1H-isoindol-1-yl)-2-methoxy-3-methylphenyl)methanol (338 mg, 0.74 mmol), pyrimidine-5-boronic acid (110 mg, 0.89 mmol), cesium carbonate (726 mg, 2.23 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (60.6 mg, 0.07 mmol) were dissolved in DME:EtOH:water (6:3:1) (5 mL) and irradiated in a microwave oven for 20 min at 150° C. The solvent was evaporated in vacuo and to the residue was added water, 2 M HCl solution to reach pH˜7, and EtOAc. The organic phase was collected, dried and filtered. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC to give 250 mg (74%) of the title compound.

reactant | (5-(3-Amino-1-(3-bromophenyl)-4-fluoro-1H-isoindol-1-yl)-2-methoxy-3-methylphenyl)methanol | 0.74 mmol, 338 mg | NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=CC=C1)Br)C=1C=C(C(=C(C1)CO)OC)C | C23H20BrFN2O2
reactant | pyrimidine-5-boronic acid | 0.89 mmol, 110 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 2.23 mmol, 726 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME EtOH water | 5 mL | COCCOC.CCO.O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.07 mmol, 60.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (5-(3-Amino-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-1-yl)-2-methoxy-3-methylphenyl)methanol | 250 mg, 74% | NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=CC=C1)C=1C=NC=NC1)C=1C=C(C(=C(C1)CO)OC)C | C27H23FN4O2
